US08389508B2
To a solution of 1,1-dimethylethyl 4-[2-ethyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-1-piperidinecarboxylate (70 mg, 0.169 mmol), 5-(3-bromo-1,2,4-thiadiazol-5-yl)-2-(2-methylpropyl)benzonitrile (D60) (81 mg, 0.253 mmol) and Pd(Ph3P)4 (19.47 mg, 0.017 mmol) in N,N-Dimethylformamide (DMF) (5 mL) and Water (1 mL) was added tripotassium phosphate (107 mg, 0.506 mmol). This solution was stirred in MW irradiation at 120° C. for 20 Min. The solution was dried directly with silica gel and purified on column chromatography to afford 1,1-dimethylethyl 4-(3-{5-[3-cyano-4-(2-methylpropyl)phenyl]-1,2,4-thiadiazol-3-yl}-2-ethylphenyl)-1-piperidinecarboxylate (D124) (89 mg). MS (ES): C31H38N4O2S requires 530.3. found 531.3 (M+H+).

reactant | 1,1-dimethylethyl 4-[2-ethyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-1-piperidinecarboxylate | 0.169 mmol, 70 mg | C(C)C1=C(C=CC=C1B1OC(C(O1)(C)C)(C)C)C1CCN(CC1)C(=O)OC(C)(C)C | C24H38BNO4
reactant | 5-(3-bromo-1,2,4-thiadiazol-5-yl)-2-(2-methylpropyl)benzonitrile | 0.253 mmol, 81 mg | BrC1=NSC(=N1)C=1C=CC(=C(C#N)C1)CC(C)C | C13H12BrN3S
reactant | tripotassium phosphate | 0.506 mmol, 107 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | N,N-Dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | Water | 1 mL | O | H2O
catalyst | Pd(Ph3P)4 | 0.017 mmol, 19.47 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1,1-dimethylethyl 4-(3-{5-[3-cyano-4-(2-methylpropyl)phenyl]-1,2,4-thiadiazol-3-yl}-2-ethylphenyl)-1-piperidinecarboxylate | 89 mg | C(#N)C=1C=C(C=CC1CC(C)C)C1=NC(=NS1)C=1C(=C(C=CC1)C1CCN(CC1)C(=O)OC(C)(C)C)CC | C31H38N4O2S
